US08445509B2
N-[6-(4-amino-2-methylphenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide
To a solution of N-(6-hydroxyimidazo[1,2-a]pyridin-2-yl)cyclopropanecarboxamide (300 mg, 1.38 mmol) and 4-fluoro-3-methyl-1-nitrobenzene (279 mg, 1.80 mmol) in dimethyl sulfoxide (3 mL) was added cesium carbonate (67.4 mg, 2.07 mmol), and the mixture was stirred at room temperature for 24 hr. Ethyl acetate, tetrahydrofuran and water were added to the reaction mixture, and the mixture was extracted 3 times with ethyl acetate. The organic layer was washed with saturated brine, and the solvent was evaporated under reduced pressure. The obtained residue was washed with ethyl acetate and collected by filtration. A mixed solution of the obtained solid, reduced iron (406 mg, 6.9 mmol) and ammonium chloride (738 mg, 13.8 mmol) in ethanol (5 mL)/tetrahydrofuran (3 mL)/water (2 mL) was stirred at 80° C. for 6 hr. The reaction mixture was diluted with ethyl acetate and tetrahydrofuran, and filtered through celite. Water was added to the filtrate, and the mixture was extracted twice with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane=2/1→ethyl acetate alone) to give the title compound (190 mg, 43%) as a white solid.

reactant | N-(6-hydroxyimidazo[1,2-a]pyridin-2-yl)cyclopropanecarboxamide | 1.38 mmol, 300 mg | OC=1C=CC=2N(C1)C=C(N2)NC(=O)C2CC2 | C11H11N3O2
reactant | 4-fluoro-3-methyl-1-nitrobenzene | 1.80 mmol, 279 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | cesium carbonate | 2.07 mmol, 67.4 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ammonium chloride | 13.8 mmol, 738 mg | [Cl-].[NH4+]
solvent | dimethyl sulfoxide | 3 mL | CS(=O)C | C2H6OS
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | N-[6-(4-amino-2-methylphenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 190 mg, 43% | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)C | C18H18N4O2
